US06451816B1
2-[3-(1-Diphenylmethylpiperidine-4-yl)-propyl]-isoindol-1,3-dione
20.3 g (65.6 mmol) 3-(1-diphenylmethylpiperidin-4-yl)-propan-1-ol, 17.2 g (65.6 mmol) triphenylphosphine and 9.7 g (65.6 mmol) phthalimide are suspended in 220 ml THF and a solution of 10.4 ml (65.6 mmol) azodicarbonic acid diethyl ester in 50 ml THF is added dropwise within one hour under protective atmosphere and light cooling (ca. 15-25° C.). After a further three hours, the solvent is removed under vacuum and the residue is crystallized from 60 ml 1-chlorobutane. Yield: 12.9 g (45%).

reactant | 3-(1-diphenylmethylpiperidin-4-yl)-propan-1-ol | 65.6 mmol, 20.3 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCCO)C1=CC=CC=C1 | C21H27NO
reactant | triphenylphosphine | 65.6 mmol, 17.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 65.6 mmol, 9.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | THF | 220 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-[3-(1-Diphenylmethylpiperidine-4-yl)-propyl]-isoindol-1,3-dione | C1(=CC=CC=C1)C(N1CCC(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C29H30N2O2
